US04654074
In a 500 ml eggplant-shaped flask equipped with a stirrer, 17.4 g (75.1 mmoles) of 2-chloro-N-(4,6-dimethoxy-5-pyrimidinyl)acetamide was dissolved in 300 ml of dichloromethane, and 5.22 g of benzyl tributyl ammonium chloride was added. Under ice cooling, 41.5 ml of a 50% aqueous solution of sodium hydroxide was added to the mixture with stirring. Thereafter, a solution of 13.8 g (82.6 mmoles) of N-(1-chloroethyl)pyrazole hydrochloride in 70 ml of dichloromethane was added dropwise over about 30 minutes. The mixture was stirred further at room temperature for 2 hours. The reaction mixture was washed with water, dried and concentrated. The resulting solid was recrystallized from isopropanol to give 9.26 g of 2-chloro-N-(4,6-dimethoxy-5-pyrimidinyl)-N-(1-(1-pyrazolyl)ethyl)acetamide as a pale yelllow solid which had the following properties.

reactant | 2-chloro-N-(4,6-dimethoxy-5-pyrimidinyl)acetamide | 75.1 mmoles, 17.4 g | ClCC(=O)NC=1C(=NC=NC1OC)OC | C8H10ClN3O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N-(1-chloroethyl)pyrazole hydrochloride | 82.6 mmoles, 13.8 g | Cl.ClC(C)N1N=CC=C1
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | benzyl tributyl ammonium chloride | 5.22 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 2-chloro-N-(4,6-dimethoxy-5-pyrimidinyl)-N-(1-(1-pyrazolyl)ethyl)acetamide | 9.26 g | ClCC(=O)N(C(C)N1N=CC=C1)C=1C(=NC=NC1OC)OC | C13H16ClN5O3
